US07335770B2
(4,6-Dichloro-[1,3,5]triazin-2-yl)-(3-nitro-phenyl)-amine (158a):
To cyanuric chloride (1.3307 g, 7.2 mmol) dissolved in acetone (15 mL) stirring at 0-5° C., was added a solution of 3-nitroaniline (1.0023 g, 7.2 mmol) in acetone (15 mL) followed by the addition of 2.5 N NaOH (2.9 mL, 7.2 mmol). The reaction mixture was allowed to stir at 0-5° C. for 1 hour under nitrogen. The reaction mixture was poured over crushed ice. The solid that formed was collected by vacuum filtration and the resulting solid was dried overnight under vacuum. The product was used with no further purification, (158a, 2.01 g, 98%), mp 173° C.; HPLC: Inertsil ODS-3V C18, 40:30:30 [KH2PO4 (0.01M, pH 3.2): CH3OH: CH3CN], 264 nm, Rt 21.5 min, 97.1% purity; MS (TOF MS ES+): m/z 370 (80.33), 291 (43.4), 286 (M+H, 100).

reactant | cyanuric chloride | 7.2 mmol, 1.3307 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 3-nitroaniline | 7.2 mmol, 1.0023 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | NaOH | 7.2 mmol, 2.5 N, 2.9 mL | [OH-].[Na+]
solvent | acetone | 15 mL | CC(=O)C | C3H6O
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | (4,6-Dichloro-[1,3,5]triazin-2-yl)-(3-nitro-phenyl)-amine | ClC1=NC(=NC(=N1)Cl)NC1=CC(=CC=C1)[N+](=O)[O-] | C9H5Cl2N5O2
